US04640922
6-Chloro-5-ethoxycarbonyl-3-N-methoxycarbonyl-2-methyl-4-(3'-nitrophenyl)-3,4-dihydropyrimidine
To a solution of 6-chloro-5-ethoxycarbonyl-2-methyl-4-(3'-nitrophenyl)-dihydropyrimidine (0.5 g, 1.54 millimole) and triethylamine (1.6 g, 16 millimole) in 20 ml of chloroform 1.46 g (15.4 millimole) of methyl chloroformate was added dropwise with stirring in ice and the mixture was stirred at room temperature for 3 hours. The reaction solution was washed with 2% aqueous NaOH solution and then water, dried and evaporated to obtain 0.5 g of the title product as oil.

reactant | 6-chloro-5-ethoxycarbonyl-2-methyl-4-(3'-nitrophenyl)-dihydropyrimidine | 1.54 millimole, 0.5 g | ClC1=C(C(=NC(N1)C)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | C14H14ClN3O4
reactant | triethylamine | 16 millimole, 1.6 g | C(C)N(CC)CC | C6H15N
reactant | chloroform | 15.4 millimole, 20 ml, 1.46 g | C(Cl)(Cl)Cl | CHCl3
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | 6-Chloro-5-ethoxycarbonyl-3-N-methoxycarbonyl-2-methyl-4-(3'-nitrophenyl)-3,4-dihydropyrimidine | 0.5 g | ClC1=C(C(N(C(=N1)C)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | C16H16ClN3O6
